US06034096
A solution of 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]benzoic acid (13.1 g, 32 mmol) and thionyl chloride (7 ml, 96 mmol) in chloroform (300 ml) was refluxed for 4 hours, then the solvent and thionyl chloride were evaporated. Crude was dissolved in chloroform (100 ml) and evaporated to dryness three times. Crude was added as solid to a solution of hydroxylamine hydrochloride (2.7 g, 39 mmol) and sodium bicarbonate (5.4 g, 64 mmol) and 1N sodium hydroxide (39 ml, 39 mmol) in water (150 ml) and THF (50 ml). The mixture was stirred overnight at room temperature, then THF was removed under reduced pressure and the aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic phases were dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. Crude was dissolved in THF and treated with a 1.5 N etheric solution of HCl. The solid product was filtered and dried yielding 6 g (yield 41%) of pure 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]benzohydroxamic acid hydrochloride as white solid; m.p.=162-165° C., (dec.)

reactant | 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]benzoic acid | 32 mmol, 13.1 g | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CONC(=O)C1=CC=C(C(=O)O)C=C1 | C24H26N2O4
reactant | thionyl chloride | 96 mmol, 7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydroxylamine hydrochloride | 39 mmol, 2.7 g | Cl.NO
reactant | sodium bicarbonate | 64 mmol, 5.4 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 39 mmol, 1N, 39 ml | [OH-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 150 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]benzohydroxamic acid hydrochloride | 6 g, yield 41% | Cl.C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CONC(=O)C1=CC=C(C(=O)NO)C=C1 | InChI=1S/C24H27N3O4.ClH/c1-3-27(4-2)15-17-5-7-22-14-18(6-8-21(22)13-17)16-31-26-24(29)20-11-9-19(10-12-20)23(28)25-30;/h5-14,30H,3-4,15-16H2,1-2H3,(H,25,28)(H,26,29);1H
